US05200419
3(1H-Tetrazo1-1-yl)-1-azabicyclo[2.2.2]octane
A suspension of 3-aminoquinuclidine dihydrochloride (19.94 g, 0.1 mol), sodium azide (7.8 g, 0.12 mol) and triethylorthoformate (22 mL, 0.15 mol) in glacial acetic acid (50 mL) is heated at an oil bath temperature of 100° C. for 3 hours. The solvent is removed and the oily residue is partitioned between aqueous concentrated potassium carbonate solution and chloroform. The organic layer is dried (potassium carbonate) and concentrated to an oil. The oil is purified by column chromatography (silica gel eluting with chloroform-methanol 8:2) to give 10.82 g of the title compound; mp 83°-84° C. as a white solid.

reactant | 3-aminoquinuclidine dihydrochloride | 0.1 mol, 19.94 g | Cl.Cl.NC1CN2CCC1CC2
reactant | sodium azide | 0.12 mol, 7.8 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylorthoformate | 0.15 mol, 22 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 3(1H-Tetrazo1-1-yl)-1-azabicyclo[2.2.2]octane | 10.82 g | N1(N=NN=C1)C1CN2CCC1CC2 | C8H13N5
